US07863291B2
A mixture of 6-bromopyridin-2-amine (253 mg, 1.46 mmol), chloroform (2 mL), sodium bicarbonate (850 mg, 10.12 mmol) and water (3 mL) was assembled, and to this was added a solution of thiophosgene (190 mg, 1.65 mmol) in chloroform (1 mL). The reaction mixture was stirred at room temperature for 4 hours. The reaction mixture was transferred to a separatory funnel and partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over magnesium sulfate, filtered and the solvent evaporated to give a yellow solid. The solid was purified by column chromatography (5% ethyl acetate/hexanes) to afford 2-bromo-6-isothiocyanatopyridine (281 mg, 1.31 mmol, 89% yield) as a white solid. 1H NMR (500 MHz, CDCl3) δ ppm 7.50-7.62 (m, 1 H), 7.34-7.43 (m, 1 H), 6.91-7.11 (m, 1H). MS (LC/MS) R.T.=1.92; [M+H]+=216.86.

reactant | 6-bromopyridin-2-amine | 1.46 mmol, 253 mg | BrC1=CC=CC(=N1)N | C5H5BrN2
reactant | sodium bicarbonate | 10.12 mmol, 850 mg | C([O-])(O)=O.[Na+]
reactant | water | 3 mL | O | H2O
reactant | thiophosgene | 1.65 mmol, 190 mg | C(=S)(Cl)Cl | CCl2S
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-bromo-6-isothiocyanatopyridine | 1.31 mmol, 281 mg, 89% yield | BrC1=NC(=CC=C1)N=C=S | C6H3BrN2S
